US08293894B2
Preparation of Diprotected Ertapenem of Formula (IV)
To 3-[[[(2S,4S)-4-mercapto-1-(4-nitrobenzyloxy)carbonyl-2-pyrrolidinyl]carbonyl]amino]benzoic acid (7.68 g) in DMF (30 mL), p-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[(diphenylphosphono)oxy]-1-methylcarbapen-2em-3-carboxylate (10 g) was added. To the reaction mixture N,N-diisopropylethylamine (4.78 g) was added at −30° C. and stirred. After completion of reaction, the reaction mass was poured into water and ethyl acetate mixture at 10° C. The layers were separated and organic layer washed with brine solution. The organic layer was subjected to carbon treatment and taken for subsequent step.

reactant | 3-[[[(2S,4S)-4-mercapto-1-(4-nitrobenzyloxy)carbonyl-2-pyrrolidinyl]carbonyl]amino]benzoic acid | 7.68 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)NC=1C=C(C(=O)O)C=CC1 | C20H19N3O7S
reactant | p-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[(diphenylphosphono)oxy]-1-methylcarbapen-2em-3-carboxylate | 10 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)OP(=O)(OC2=CC=CC=C2)OC2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C29H27N2O10P
reactant | N,N-diisopropylethylamine | 4.78 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ertapenem | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)NC=4C=CC=C(C4)C(=O)O)C(=O)O)[C@@H](C)O | C22H25N3O7S
